US07250518B2
2-(Benzo[1,3]dioxol-5-yloxy)-5-fluoro-nicotinic acid of Formula (6.0.43):
2-Chloro-5-fluoro-nicotinic acid (synthesized in accordance with the procedures described in European patent: EP 0634413 A1) was converted to the corresponding ethyl ester with anhydrous ethanol and excess thionyl chloride, then worked up in the usual manner. To 2-chloro-5-fluoro-nicotinic acid ethyl ester (5.0 g) in an oven-dried 250 mL flask was added cesium carbonate (9.60 g), sesamol (4.07 g), and 50 mL of anhydrous dioxane. The reaction was stirred overnight at 100° C. Lithium hydroxide (2.94 g) in 10 mL water was added, and the reaction was again allowed to stir overnight at 100° C. The dioxane was then evaporated under a nitrogen stream. The residue was then taken up in 50 mL water, acidified with conc. hydrochloric acid to pH=3, and extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. The dried residue was washed with ethyl acetate (20 mL) and dried under high vacuum, giving the title compound (2.96 g).

reactant | 2-Chloro-5-fluoro-nicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-5-fluoro-nicotinic acid ethyl ester | 5.0 g | C(C)OC(C1=C(N=CC(=C1)F)Cl)=O | C8H7ClFNO2
reactant | cesium carbonate | 9.60 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sesamol | 4.07 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | Lithium hydroxide | 2.94 g | [OH-].[Li+]
solvent | water | 10 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 2-(Benzo[1,3]dioxol-5-yloxy)-5-fluoro-nicotinic acid | 2.96 g | O1COC2=C1C=CC(=C2)OC2=C(C(=O)O)C=C(C=N2)F | C13H8FNO5
